US05814407
a) Synthesis of N-octyl-β-D-glucopyranosylamine
54 g of glucose (0.3 mol) are added to a solution of 40 g of octylamine (0.3 mol) in 50 ml of absolute methanol. The reaction mixture is heated to 65° C. for 20 min and then 50 ml of 95% hot ethanol are added. The N-octyl-β-D-glucopyranosylamine which precipitates on cooling (complete precipitation after 2 hours) is filtered off on a Buchner and then recrystallized from absolute ethand (1.5 1).

reactant | glucose | 0.3 mol, 54 g | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | octylamine | 0.3 mol, 40 g | C(CCCCCCC)N | C8H19N
reactant | ethanol | 50 ml | C(C)O | C2H6O
solvent | methanol | 50 ml | CO | CH4O
product | N-octyl-β-D-glucopyranosylamine | C(CCCCCCC)N[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO | C14H29NO5
